US05338853
4-Hydrazinocarbonyl-1-(2,2,6,6-tetramethyl-4-piperidinyl)-2-pyrrolidone was prepared by the hydrazinolysis of 4-(methoxycarbonyl)-1-(2,2,6,6-tetramethyl-4-piperidinyl)-2-pyrrolidone with excess hydrazine hydrate in methanol. The above intermediate half ester was prepared by the addition of 4-amino-2,2,6,6-tetramethylpiperidine to dimethyl itaconate according to the procedure described in U.S. Pat. No. 4,309,546.

reactant | 4-(methoxycarbonyl)-1-(2,2,6,6-tetramethyl-4-piperidinyl)-2-pyrrolidone | COC(=O)C1CC(N(C1)C1CC(NC(C1)(C)C)(C)C)=O | C15H26N2O3
reactant | hydrazine hydrate | O.NN
reactant | 4-amino-2,2,6,6-tetramethylpiperidine | NC1CC(NC(C1)(C)C)(C)C | C9H20N2
reactant | dimethyl itaconate | C(C(=C)CC(=O)OC)(=O)OC | C7H10O4
solvent | methanol | CO | CH4O
product | 4-Hydrazinocarbonyl-1-(2,2,6,6-tetramethyl-4-piperidinyl)-2-pyrrolidone | N(N)C(=O)C1CC(N(C1)C1CC(NC(C1)(C)C)(C)C)=O | C14H26N4O2
